US09255110B2
A mixture of 7-bromo-3-hydroxy-naphthalene-2-carboxylic acid (J. Med. Chem. 1990, 33(1), 171) (5.3 g, 19.85 mmol), potassium carbonate (13.7 g, 99.25 mmol) and dimethylsulfate (3.8 mL, 45.66 mmol) in acetone (50 mL) was heated at reflux for 3.5 hours. The reaction mixture was then filtered; the filtrate was treated with water (5 mL) and the resulting mixture was stirred for 10 minutes. The reaction mixture was concentrated under reduced pressure; the residue was dissolved in dichloromethane, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford 5.946 g of 7-bromo-3-methoxy-naphthalene-2-carboxylic acid methyl ester without further purifications.

reactant | 7-bromo-3-hydroxy-naphthalene-2-carboxylic acid | 19.85 mmol, 5.3 g | BrC1=CC=C2C=C(C(=CC2=C1)C(=O)O)O | C11H7BrO3
reactant | potassium carbonate | 99.25 mmol, 13.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 45.66 mmol, 3.8 mL | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 7-bromo-3-methoxy-naphthalene-2-carboxylic acid methyl ester | 5.946 g | COC(=O)C1=CC2=CC(=CC=C2C=C1OC)Br | C13H11BrO3
